US06670379B2
To a solution of (R)4-formyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (0.5 g, 2.18 mmol) in tetrahydrofuran (15 ml) is added (4-chloro-phenyl)-piperidin-4-yl-methanone (0.49 g, 2.18 mmol) and sodium triacetoxyborohydride (0.69 g, 3.27 mmol), and the reaction mixture stirred for 3.5 hours at ambient temperature. The solvent is evaporated and the residue partitioned between ethyl acetate (50 ml) and saturated sodium bicarbonate solution (50 ml). The ethyl acetate is dried over magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography (ethyl acetate:hexane, 1:1 elution) to afford (S)-4-[4-(4-chloro-benzoyl)-piperidin-1-ylmethyl]-2,2-dimethyl-oxazoldine-3-carboxylic acid tert-butyl ester, [MH]+437.2.

reactant | (R)4-formyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 2.18 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C=O)(C)C | C11H19NO4
reactant | (4-chloro-phenyl)-piperidin-4-yl-methanone | 2.18 mmol, 0.49 g | ClC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14ClNO
reactant | sodium triacetoxyborohydride | 3.27 mmol, 0.69 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (S)-4-[4-(4-chloro-benzoyl)-piperidin-1-ylmethyl]-2,2-dimethyl-oxazoldine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CN1CCC(CC1)C(C1=CC=C(C=C1)Cl)=O)(C)C | C23H33ClN2O4
